US06278013B1
8-Cyano-1-cyclopropyl-7-[(1S,6S)-2-(2-ethloxycarbonyl-vinyl)2,8-diazabicyclo[4.3.0]nonan-8-yl-]6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
400 mg (1.01 mmol) of 8-cyano-1-cyclopropyl-7-((1S,6S)-2,8-diazabicyclo[4.3.0]-nonan-8-yl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid and 1.03 ml (10.1 mmol) of ethyl propiolate are heated at 120° C. in 7.5 ml of methylglycol for 1 hour. The reaction solution is concentrated in vacuo and the residue is stirred with water and filtered off with suction. The resulting crude product is recrystallized from ethanol.

reactant | 8-cyano-1-cyclopropyl-7-((1S,6S)-2,8-diazabicyclo[4.3.0]-nonan-8-yl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.01 mmol, 400 mg | C(#N)C=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)O)=O)F)N1C[C@@H]2CCCN[C@@H]2C1 | C21H21FN4O3
reactant | ethyl propiolate | 10.1 mmol, 1.03 ml | C(C#C)(=O)OCC | C5H6O2
product | 8-Cyano-1-cyclopropyl-7-[(1S,6S)-2-(2-ethloxycarbonyl-vinyl)2,8-diazabicyclo[4.3.0]nonan-8-yl-]6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | C(#N)C=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)O)=O)F)N1C[C@@H]2CCCN([C@@H]2C1)C=CC(=O)OCC | C26H27FN4O5
